US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)tetrahydropyran-4- carboxamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide and tetrahydropyran-4-carboxylic acid using method D. NMR; δH [2H6]—DMSO 9.89,(1H, s), 8.61,(1H, t), 7.91,(2H, d), 7.52-7.48,(2H, m), 7.40,(2H, d), 7.21,(1H, d), 3.89,(2H, m), 3.37,(1H, m), 3.16,(2H, t), 2.56,(2H, m), 2.16,(3H, s), 1.65,(3H, m), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 2.94 min, MH+393.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4- carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | tetrahydropyran-4-carboxylic acid | O1CCC(CC1)C(=O)O | C6H10O3
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)tetrahydropyran-4- carboxamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1CCOCC1 | C24H28N2O3
